US07345068B2
Diethylazodicarboxylate (40% toluene solution 0.55 ml) was added dropwise to a solution of N-trifluoroacetyl-3,5-diiodo-L-tyrosine methyl ester (272 mg, 0.5 mmol), 4-(4-hydroxyphenoxy)benzylalcohol (119 mg, 0.55 mmol) and triphenylphosphine (328 mg, 1.25 mmol) in tetrahydrofuran (5 ml) under argon atmosphere at −15° C., and the mixture was stirred at the same temperature for 1.5 hrs. The solvent of the reaction mixture was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2) to give N-trifluoroacetyl-O-[4-(4-hydroxy-phenoxy)benzyl]-3,5-diiodo-L-tyrosine methyl ester (280 mg, 76%) as colorless crystals.

reactant | Diethylazodicarboxylate | 0.55 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-trifluoroacetyl-3,5-diiodo-L-tyrosine methyl ester | 0.5 mmol, 272 mg | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)I)O)I)=O | C12H10F3I2NO4
reactant | 4-(4-hydroxyphenoxy)benzylalcohol | 0.55 mmol, 119 mg | OC1=CC=C(OC2=CC=C(CO)C=C2)C=C1 | C13H12O3
reactant | triphenylphosphine | 1.25 mmol, 328 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-trifluoroacetyl-O-[4-(4-hydroxy-phenoxy)benzyl]-3,5-diiodo-L-tyrosine methyl ester | 280 mg, 76% | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)I)OCC1=CC=C(C=C1)OC1=CC=C(C=C1)O)I)=O | C25H20F3I2NO6
